US04160086
(a) 7-(α-Phenoxycarbonylphenylacetamido)-3-(1-methyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid
α-(Phenoxycarbonyl)phenylacetyl chloride (0.02 M) in dichloromethane (50 ml.) was added to 7-amino-3-(1-methyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid (6.56 g., 0.02 M) and triethylamine (6.0 ml.) in dichloromethane (100 ml.). The resulting solution was stirred at room temperature for three hours then the solvent was removed in vacuo, the residue dissolved in water (200 ml.) and washed with ethyl acetate (2×100 ml.). The aqueous solution was covered with ethyl acetate (50 ml.) acidified to pH 1.5 with 1 N hydrochloric acid, filtered, the organic phase was collected and the aqueous phase extracted with more ethyl acetate (50 ml.). The combined extracts were washed with water (2×100 ml.) and saturated sodium chloride (50 ml.) dried over anhydrous magnesium sulphate and evaporated to dryness in vacuo to give an oily residue which was triturated with anhydrous ether to give a pale brown solid (5.0 g.). This solid was dissolved in dilute sodium bicarbonate solution (100 ml.), treated with decolourising charcoal, filtered, acidified to pH 1.5 and the precipitated cephalosporin free acid collected and dried in vacuo.

reactant | α-(Phenoxycarbonyl)phenylacetyl chloride | 0.02 M | O(C1=CC=CC=C1)C(=O)C(C(=O)Cl)C1=CC=CC=C1 | C15H11ClO3
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid | 0.02 M, 6.56 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | triethylamine | 6.0 ml | C(C)N(CC)CC | C6H15N
reactant | charcoal | C | CH4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | 7-(α-Phenoxycarbonylphenylacetamido)-3-(1-methyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid | O(C1=CC=CC=C1)C(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=CC=CC=C1 | C25H22N6O6S2
